US05185351
(E)-3-[2-n-Butyl-1-{(2-chlorophenyl)methyl}-1H-imidazol-5-yl]-2-(2-thienyl)methyl-2-propenamide
(E)-3-[2-n-Butyl-1-{(2-chlorophenyl)methyl}-1H-imidazol-5-yl]-2-(2-thienyl)methyl-2-propenoic acid, prepared in Example 1, was treated with thionyl chloride and then ammonium hydroxide, as described in Example 54, to give the title compound; mp 184°-185° C.

reactant | (E)-3-[2-n-Butyl-1-{(2-chlorophenyl)methyl}-1H-imidazol-5-yl]-2-(2-thienyl)methyl-2-propenoic acid | C(CCC)C=1N(C(=CN1)/C=C(/C(=O)O)\CC=1SC=CC1)CC1=C(C=CC=C1)Cl | C22H23ClN2O2S
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | ammonium hydroxide | [OH-].[NH4+]
product | (E)-3-[2-n-Butyl-1-{(2-chlorophenyl)methyl}-1H-imidazol-5-yl]-2-(2-thienyl)methyl-2-propenamide | C(CCC)C=1N(C(=CN1)/C=C(/C(=O)N)\CC=1SC=CC1)CC1=C(C=CC=C1)Cl | C22H24ClN3OS
